Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:12].[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[H:11],4.39603945045
[H:1][C:2]=[C:3]([H:4])[C:5][O:6][C:7]([H:8])=[C:9][H:10]>>[C:9][H:10].[H:1][C:2]=[C:3]([H:4])[C:5][O:6][C:7][H:8],7.811188995660001
[C:6][O:7][H:8].[H:1][C:2]=[C:3]([H:4])[H:5]>>[H:1][C:2][C:3]([H:4])([H:5])[C:6][O:7][H:8],-0.1730398563099999
[H:10].[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]=[C:11]([H:12])[H:13]>>[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],-4.74088747971
[H:1][C:2]([H:3])([H:4])[O:5][C:6]1[C:7]([H:8])([H:9])[O:10][C:11]1([H:12])[H:13]>>[H:1][C:2]([H:3])([H:4])[O:5][C:6][C:7]([H:8])([H:9])[O:10][C:11]([H:12])[H:13],1.7480185446
[H:1][O:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:11].[H:1][O:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])([H:8])[C:9][H:10])[C:12]([H:13])([H:14])[H:15],5.297588837869999
[H:1][C:2].[O:3]=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-2.9123854972099994
[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[O:11][H:12]>>[C:8]([H:9])([H:10])[O:11][H:12].[O:1]=[C:2]([H:3])[C:4]([H:5])=[C:6][H:7],4.30955760351
[O:1]=[C:2]=[C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[H:11]>>[C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[H:11].[O:1]=[C:2],3.3628327617400005
[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])[O:10][H:11]>>[H:11].[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])=[O:10],1.47466162688
[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([C:12]([H:13])[H:14])=[C:15]([H:16])[H:17]>>[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]1[C:12]([H:13])([H:14])[C:15]1([H:16])[H:17],0.9344286596
[O:1]=[C:2]1[C@:3]2([H:4])[C:5][C@:6]12[C:7]([H:8])([H:9])[H:10]>>[O:1]=[C:2]=[C:6]([C:5]#[C:3][H:4])[C:7]([H:8])([H:9])[H:10],-2.15625828218
[C:1]#[C:2][C:3]([O:4][H:5])[O:6][H:7].[C:8]([H:9])([H:10])[H:11]>>[C:1]#[C:2][C:3]([O:4][H:5])([O:6][H:7])[C:8]([H:9])([H:10])[H:11],-1.38021644004
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7][O:8][C:9]([H:10])[H:11]>>[C:4]([H:5])([H:6])=[C:7][O:8][C:9]([H:10])[H:11].[H:1][C:2]#[C:3],4.1977168911800025
[H:7].[O:1]=[C:2]([H:3])[C:4](=[C:5][H:6])[C:8]([H:9])([H:10])[O:11][H:12]>>[O:1]=[C:2]([H:3])[C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][H:12],-4.993847780369999
[H:1][C:2]#[C:3][C@@:4]([H:5])([C:6]=[C:7]([H:8])[H:9])[O:10][H:11]>>[C:6]=[C:7]([H:8])[H:9].[H:1][C:2]#[C:3][C:4]([H:5])[O:10][H:11],2.69640123956
[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[C:4]([H:5])([H:6])[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:1][O:2][O:3],2.97837369134
[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2][H:3].[O:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],4.69077177479
[H:1][C:2]#[C:4][C:7]([H:8])[H:9].[H:3][C:5]([H:6])[H:10]>>[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[C:7]([H:8])([H:9])[H:10],-3.72168967318
[H:1][O:2]/[C:3]=[C:4]([H:5])/[C:6]([H:7])=[C:8]/[C:9]([H:10])([H:11])[H:12]>>[H:1][O:2][C:3]#[C:4]/[C:6]([H:7])=[C:8]/[C:9]([H:10])([H:11])[H:12].[H:5],2.46272019252
[H:1][C:2][O:3][C:4]([O:5][C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2][O:3][C:4][C:9]([H:10])([H:11])[H:12].[O:5]=[C:6]([H:7])[H:8],1.6712090111500002
[H:1][C:2][O:3][C:4]([C:5]#[C:6][H:7])[O:8][H:9]>>[H:1][C:2].[O:3]=[C:4]([C:5]#[C:6][H:7])[O:8][H:9],2.48790026433
[C:3]([O:4][C:5][C:6]([H:7])([H:8])[H:9])=[C:10]([H:11])[H:12].[H:1][O:2]>>[H:1][O:2][C:3]([O:4][C:5][C:6]([H:7])([H:8])[H:9])=[C:10]([H:11])[H:12],-6.186101958409999
[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13].[H:1][C:2]([H:3])=[C:4]=[O:5]>>[H:1][C:2]([H:3])=[C:4][O:5][C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],0.24325863346
[C:5][C:6]([H:7])([H:8])[H:9].[H:1][O:2][C:3]#[C:4]>>[H:1][O:2][C:3][C:4]#[C:5][C:6]([H:7])([H:8])[H:9],-6.73303603799
[H:1][C:2]#[C:3][C:4]([C:5]([H:6])([H:7])[H:8])[C:10](=[O:9])[H:11]>>[H:1][C:2]#[C:3][C@:4]1([C:5]([H:6])([H:7])[H:8])[O:9][C:10]1[H:11],1.98441737897
[H:1][C:2]#[C:3][C@@:4]([H:5])([C:6]([H:7])[O:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[C:10]([H:11])([H:12])[H:13].[H:1][C:2]#[C:3]/[C:4]([H:5])=[C:6](\[H:7])[O:8][H:9],1.09331390021
[C:9]([H:10])=[C:11]([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[H:8]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])/[C:9]([H:10])=[C:11](\[H:12])[C:13]([H:14])([H:15])[H:16],-4.3970034806300005
[H:1][C:2]1=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[O:12]1>>[H:1][C:2][O:12][C:9]([O:8][C:5]([C:3][H:4])([H:6])[H:7])([H:10])[H:11],6.919059215639999
